US05081136
Preparation of 1-(4-fluorophenyl)-4-methyl-5-chloromethyl-1,2,3-triazole
A solution of 1-(4-fluorophenyl)-4-methyl-5-hydroxymethyl-1,2,3-triazole (871 mg; 4.20 mmol), prepared as described in example 6, and thionyl chloride (400 ml; 5.46 mmol) in benzene (14 ml) was heated under reflux for 4 hours. The reaction mixture was kept under stirring at room temperature overnight, thionyl chloride and benzene were evaporated and the resultant crude compound was collected several times with benzene. After evaporation of the solvent, the crude compound was purified by chromatography on silica gel (230-400 mesh), eluent methylene chloride:acetone=95:5, giving the title compound (m.p. 70°-71° C.).

reactant | 1-(4-fluorophenyl)-4-methyl-5-hydroxymethyl-1,2,3-triazole | 4.20 mmol, 871 mg | FC1=CC=C(C=C1)N1N=NC(=C1CO)C | C10H10FN3O
reactant | thionyl chloride | 5.46 mmol, 400 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 14 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-fluorophenyl)-4-methyl-5-chloromethyl-1,2,3-triazole | FC1=CC=C(C=C1)N1N=NC(=C1CCl)C | C10H9ClFN3
